US06277871B1
(S)-cyclohexylmethyloxirane
To a solution of the product from Example 15B in CH2Cl2 was added triethylamine (6.6 mL), 2,4,6-triisopropylbenzenesulfonyl chloride (11.5 g), and DMAP (0.386 g). After 14 hours, the reaction was diluted with ether, chilled to 0° C., filtered through celite, and concentrated. The residue was dissolved in ethanol (100 mL) and 1M NaOH (32 mL) was added. After 30 minutes, the reaction was carefully concentrated, diluted with water (100 mL), and extracted into ether (3×50 mL). The organic extracts were washed with brine (20 mL), dried (MgSO4), filtered, and concentrated to provide a colorless aromatic oil which was purified first by passage through a plug of silica gel eluting with 5% EtOAc/hexanes, then by bulb-to-bulb distillation under reduced pressure to provide 3.3 g (75%) of the title compound as a colorless aromatic oil.

reactant | triethylamine | 6.6 mL | C(C)N(CC)CC | C6H15N
reactant | 2,4,6-triisopropylbenzenesulfonyl chloride | 11.5 g | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)Cl | C15H23ClO2S
reactant | ether | CCOCC | C4H10O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.386 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | (S)-cyclohexylmethyloxirane | 3.3 g, 75% | C1(CCCCC1)C[C@@H]1OC1 | C9H16O
